US04343811
2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid propylamide
A quantity of 0.5 g (1.3 m mole) of 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride was warmed for 15 minutes with 4 ml of thionylchloride on a steam bath. Subsequently, the excess thionylchloride was removed in vacuo, and the residue was dissolved in 100 ml of chloroform and 4 ml of propylamine were added dropwise under stirring. After one hour the reaction mixture was evaporated, and the residue obtained was purified on silicagel with ethyl acetate as eluant.

reactant | 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride | 0.5 g | Cl.CC(C(=O)O)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1
reactant | thionylchloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid propylamide | C(CC)NC(C(C)(OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1)C)=O | C24H31N3O2
